US07737166B2
Methyl 4-acetylamino-5-bromo-3-(3,3-dimethyl-1-butynyl)salicylate (I-251)
Under nitrogen atmosphere, methyl 4-acetylamino-5-bromo-3-iodosalicylate (I-250) (414 mg, 1.0 mmol), bis(triphenylphosphine)palladium(II) chloride (49 mg, 0.07 mmol), copper(I) iodide (19 mg, 0.1 mmol) and 3,3-dimethyl-1-butyne (0.13 ml, 1.1 mmol) were added to a mixed liquid of triethylamine (4 ml) and dioxane (6 ml), followed by stirring at 30° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, then saturated ammonium chloride water was added to the residue, followed by extraction twice with chloroform, the organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column, chromatography, and the eluate with n-hexane/ethyl acetate (2:1) gave the entitled compound (243 mg, 66.5) as a white solid.

reactant | methyl 4-acetylamino-5-bromo-3-iodosalicylate | 1.0 mmol, 414 mg | C(C)(=O)NC=1C(=C(C(C(=O)OC)=CC1Br)O)I | C10H9BrINO4
reactant | 3,3-dimethyl-1-butyne | 1.1 mmol, 0.13 ml | CC(C#C)(C)C | C6H10
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.07 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.1 mmol, 19 mg | [Cu]I
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | Methyl 4-acetylamino-5-bromo-3-(3,3-dimethyl-1-butynyl)salicylate | C(C)(=O)NC=1C(=C(C(C(=O)OC)=CC1Br)O)C#CC(C)(C)C | C16H18BrNO4
